US06531494B1
2-Cyano-4-(4-methoxy-phenyl)-3-methyl-but-2-enoic Acid Ethyl Ester
In a flask equipped with a Dean-stark trap was prepared a solution of 1-(4-Methoxy-phenyl)-propan-2-one (40 g), ethyl cyanoacetate (27.56 g), ammonium acetate (9.40 g), acetic acid (14.64 g) and toluene (150 ml) at room temperature. The solution was heated to reflux overnight. The solution was cooled to room temperature, washed with water and brine, and concentrated. The crude product was purified on a silica gel column, eluting with 10% ethyl acetate/hexane to afford colorless oil (40.76 g). The 1H NMR was consistent with the proposed structure.

reactant | 1-(4-Methoxy-phenyl)-propan-2-one | 40 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | ethyl cyanoacetate | 27.56 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 9.40 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 14.64 g | C(C)(=O)O | C2H4O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Cyano-4-(4-methoxy-phenyl)-3-methyl-but-2-enoic Acid Ethyl Ester | 40.76 g | C(C)OC(C(=C(CC1=CC=C(C=C1)OC)C)C#N)=O | C15H17NO3
